US04707473
N-α-Phenylethylphenoxazine
A solution of phenoxazine 76 g, 0.417 mol (Aldrich Chemical Co., Milwaukee, WI, Cat. No. P1,585-8) in dry dimethylformamide (120 ml) was added to a stirred suspension of sodium hydride (22 g, 0.458 mol, 50% suspension in mineral oil) in dry dimethylformamide (500 ml). After 1 hour at room temperature α-phenylethyl chloride (59 g, 0.43 mol) was added dropwise and when the addition was completed, stirring was continued for another 30 min. The solution was poured into water, the product extracted with ethyl acetate, the extract washed with water, and dried over sodium sulfate. The solvent was removed under reduced pressure. N-α-Phenylethylphenoxazine was crystallized from ether-hexane, mp 100° C.

reactant | phenoxazine | 0.417 mol, 76 g | C1=CC=CC=2OC3=CC=CC=C3NC12 | C12H9NO
reactant | sodium hydride | 0.458 mol, 22 g | [H-].[Na+]
reactant | α-phenylethyl chloride | 0.43 mol, 59 g | C1(=CC=CC=C1)C(C)Cl | C8H9Cl
reactant | water | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N-α-Phenylethylphenoxazine | C1(=CC=CC=C1)C(C)N1C2=CC=CC=C2OC=2C=CC=CC12 | C20H17NO
